US07816540B2
2-[2-(4-Chloro-phenyl)-5,6-difluoro-benzoimidazol-1-yl]-2-cyclohexyl-N-[4-(1H-tetrazol-5-yl)-phenyl]-acetamide
The suspension of 0.13 g (0.25 mmol) 2-[2-(4-chloro-phenyl)-5,6-difluoro-benzoimidazol-1-yl]-N-(4-cyano-phenyl)-2-cyclohexyl-acetamide, 0.17 g (1.26 mmol) triethylammonium hydrochloride and 82 mg (1.26 mmol) sodium azide in 3 mL ortho-xylene was stirred at 145° C. for 2.5 hrs. The brown suspension was poured on 1M aqueous hydrochloric acid solution and extracted three times with ethyl acetate. The combined organic layers were dried over magnesium sulfate, filtered and evaporated to dryness. The residue was dissolved in acetonitrile and a few drops of water were added upon which precipitation started. The formed suspension was filtered and the solid was washed with acetonitrile containing a few drops of water to give the desired compound as a white solid (68%). MS (ES+): 548.3 (M+H).

reactant | 2-[2-(4-chloro-phenyl)-5,6-difluoro-benzoimidazol-1-yl]-N-(4-cyano-phenyl)-2-cyclohexyl-acetamide | 0.25 mmol, 0.13 g | ClC1=CC=C(C=C1)C1=NC2=C(N1C(C(=O)NC1=CC=C(C=C1)C#N)C1CCCCC1)C=C(C(=C2)F)F | C28H23ClF2N4O
reactant | triethylammonium hydrochloride | 1.26 mmol, 0.17 g | Cl.C(C)[NH+](CC)CC
reactant | sodium azide | 1.26 mmol, 82 mg | [N-]=[N+]=[N-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | ortho-xylene | 3 mL | C=1(C(=CC=CC1)C)C | C8H10
product | 2-[2-(4-Chloro-phenyl)-5,6-difluoro-benzoimidazol-1-yl]-2-cyclohexyl-N-[4-(1H-tetrazol-5-yl)-phenyl]-acetamide | 68% | ClC1=CC=C(C=C1)C1=NC2=C(N1C(C(=O)NC1=CC=C(C=C1)C1=NN=NN1)C1CCCCC1)C=C(C(=C2)F)F | C28H24ClF2N7O
